US05622969
Preparation of 7-(Benzyloxy)indole intermediate
Wet Raney nickel is added in portions to a stirred refluxing solution of 7-(benzyloxy)-3-methylthio)indole (4.0 g, 14.9 mmol) in ethyl acetate (100 ml) and ethanol (60 ml) until all the starting material has been consumed (by RP HPLC). The mixture is filtered, the filtrate evaporated and the residue chromatographed on silica in ethyl acetate-hexane (1:8) to give a pale oil.

reactant | indole | 14.9 mmol, 4.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 7-(Benzyloxy)indole | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
